US08530480B2
A mixture of 4-fluorophenol (0.3 g, 2.7 mmol), 3-bromo-5-fluorobenzonitrile (0.53 g, 2.7 mmol), K2CO3 (1.1 g, 8.0 mmol) in N,N-dimethylacetamide (3 mL) was heated to 160° C. for 3 hr. The reaction mixture was cooled to room temperature and diluted with EtOAc and water. The organic layer was separated, dried (MgSO4), concentrated, and purified by chromatography on silica gel (EtOAc/hexanes) to afford 3-bromo-5-(4-fluorophenoxy)benzonitrile.

reactant | 4-fluorophenol | 2.7 mmol, 0.3 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 3-bromo-5-fluorobenzonitrile | 2.7 mmol, 0.53 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | K2CO3 | 8.0 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3-bromo-5-(4-fluorophenoxy)benzonitrile | BrC=1C=C(C#N)C=C(C1)OC1=CC=C(C=C1)F | C13H7BrFNO
